Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:4][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16].[H:5],4.74903157385
[H:1][O:2][C:3][O:4][C:5]([C:6]([H:7])[H:8])=[C:9]([H:10])[H:11]>>[C:6]([H:7])[H:8].[H:1][O:2][C:3][O:4][C:5]=[C:9]([H:10])[H:11],5.78463172845
[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-5.26003044208
[H:1][O:2][C:3]#[C:4][C@:5]([H:6])([O:7][H:8])[C:9]([H:10])[H:11]>>[C:9]([H:10])[H:11].[H:1][O:2][C:3]#[C:4][C:5]([H:6])[O:7][H:8],4.411137319040001
[O:1]=[C:2]([C:3](=[O:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([C:3][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[O:4],7.393184245960001
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([O:7][H:8])=[C:9]([H:10])[H:11]>>[C:1]#[C:2].[C:3]([H:4])([H:5])[C:6]([O:7][H:8])=[C:9]([H:10])[H:11],5.34678480775
[C:1]=[C:2]([C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[C:1][C:2]1([C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]1([H:14])[H:15],-0.2484779948599999
[C:5]([O:6][H:7])(=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]=[C:3]([H:4])[C@:5]([O:6][H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],1.58424346653
[C:6][C:7]([H:8])([H:9])[H:10].[H:1][C:2]([H:3])=[C:4]=[O:5]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6][C:7]([H:8])([H:9])[H:10],-0.485152088311
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])[H:7].[O:8][C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],3.70510244883
[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][O:8][C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7]1\[O:8][C:9]1([H:10])[H:11],-0.12510694993
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]=[O:10]>>[H:5].[O:1]=[C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[C:9]=[O:10],2.1140678713
[C:4]([H:5])#[C:6].[H:1][C:2]=[C:3]([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-6.32926731854
[H:1][C:2]([H:3])=[C:4]([H:5])[O:7][C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13].[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13],-1.59102526817
[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1][C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-0.33525678075
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],2.43937719911
[C:1]#[C:2][C:3]([H:4])[O:5][O:6]>>[C:1]#[C:2].[C:3]([H:4])[O:5][O:6],6.94505056096
[H:1][C:2]=[C:11]([O:10][C:7]([C:4]([C:3])([H:5])[H:6])([H:8])[H:9])[H:12]>>[H:1][C:2]1[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]1[H:12],-4.97017042957
[O:1]=[C:2]([H:3])[C@:4]([H:5])([O:6][H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:9].[O:1]=[C:2]([H:3])[C@:4]([H:5])([O:6][H:7])[C:8]=[C:10]([H:11])[H:12],4.88136923769
[H:3].[O:1]=[C:2]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11],-2.04852364915
[H:1].[O:2]=[C:3]([H:4])[O:5][C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])[O:5][C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-0.824237755765
[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[H:8],1.83116065058
[H:1]/[C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8]\[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:9]>>[H:1]/[C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.89496941368
[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])([H:4])[C:5],9.07110724
[C:1]=[C:2]([H:3])[H:4].[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12],-0.6816554427699999
[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6][O:7][H:8])[C:9]([H:10])[H:11]>>[O:1]=[C:2]([H:3])[C@:4]1([H:5])[C:6]([O:7][H:8])[C:9]1([H:10])[H:11],-1.76578549387
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:8],4.34450601584
[O:1]=[C:2]1[C:3]([H:4])[O:5][C:6][C:7]1([H:8])[H:9]>>[O:1]=[C:2]([C:3]([H:4])=[O:5])[C:7]([C:6])([H:8])[H:9],1.950834821
